US09029538B2
1-Ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylicacid [4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenyl]amide
N,N,N′,N′-Tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (HATU) (0.072 g, 0.19 mmol) and 1-ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (0.053 g, 0.19 mmol) in N,N-dimethylformamide (2 mL) was added N,N-diisopropylethylamine (0.055 mL, 0.32 mmol). After 15 min stirring at rt, 4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenylamine (0.05 g, 0.2 mmol) was added. The reaction was stirred at rt for 12 h, diluted with EtOAc (25 mL), then washed with 1N Na2CO3, water and brine and then dried over MgSO4. The product was crystallized from MeOH to give 75 mg (68%) as a white solid. mp=151-4° C.; LCMS m/z=575 (M+1); 1H NMR (DMSO) δ: 11.04 (s, 1H), 8.89 (s, 1H), 8.47 (d, 1H, J=5.4 Hz), 7.98, 8.01 (dd, 1H, J=2.3, 12.6 Hz), 7.52-7.56 (m, 2H), 7.33-7.46 (m, 6H), 6.47 (d, 1H, J=5.4 Hz), 4.01 (q, 2H, J=7 Hz), 3.98 (d, 6H), 13.0 (t, 3H, J=7 Hz).

reactant | N,N,N′,N′-Tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.19 mmol, 0.072 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | 1-ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | 0.19 mmol, 0.053 g | C(C)N1C(N(C(C(=C1)C(=O)O)=O)C1=CC=C(C=C1)F)=O | C13H11FN2O4
reactant | N,N-diisopropylethylamine | 0.32 mmol, 0.055 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenylamine | 0.2 mmol, 0.05 g | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)N)F | C17H15FN2O3
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 1-Ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylicacid [4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenyl]amide | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)C=1C(N(C(N(C1)CC)=O)C1=CC=C(C=C1)F)=O)F | C30H24F2N4O6
